US06664264B2
A round bottom flask was charged with a magnetic stir bar, N,N-dibenzyl-1-(4-chlorobutyl)-1H-imidazo[4,5-c]quinolin-4-amine (7.0 g, 15.38 mmol), sodium benzenethiolate (3.46 g, 26.15 mmol), and anhydrous dimethyl formamide (77 mL) under a nitrogen atmosphere. The reaction mixture was heated to 60° C. to give a heterogeneous mixture that was maintained at 60° C. for 4 hours at which time the starting material was completely consumed. The cooled solution was partitioned between ethyl acetate and water. The layers were separated. The organic layer was washed with saturated aqueous sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered and then concentrated under reduced pressure to afford a colorless oil. The material was purified by chromatography over silica gel (80/20 hexanes/ethyl acetate) to provide N,N-dibenzyl-1-[4-(phenylthio)butyl]-1H-imidazo[4,5-c]quinolin-4-amine (7.5 g, 14.19 mmol) as a colorless oil. MS (CI) for C34H32N4S m/z 529 (MH+), 439, 349

reactant | N,N-dibenzyl-1-(4-chlorobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | 15.38 mmol, 7.0 g | C(C1=CC=CC=C1)N(C1=NC=2C=CC=CC2C2=C1N=CN2CCCCCl)CC2=CC=CC=C2 | C28H27ClN4
reactant | sodium benzenethiolate | 26.15 mmol, 3.46 g | C1(=CC=CC=C1)[S-].[Na+]
solvent | dimethyl formamide | 77 mL | CN(C=O)C | C3H7NO
product | N,N-dibenzyl-1-[4-(phenylthio)butyl]-1H-imidazo[4,5-c]quinolin-4-amine | 14.19 mmol, 7.5 g | C(C1=CC=CC=C1)N(C1=NC=2C=CC=CC2C2=C1N=CN2CCCCSC2=CC=CC=C2)CC2=CC=CC=C2 | C34H32N4S
